US04879295
To a solution of 2-furan-thiocarboxamide (1.63 g) dissolved in dry ethanol (65 ml) with heating was added ethyl bromopyruvate (1.97 ml) and the mixture was refluxed for 30 minutes. Then the solvent was removed from the reaction mixture, and the residue was treated with water, neutralized with 4% aqueous sodium carbonate and extracted three times with ethyl acetate. The organic layer was washed with saturated aqueous NaCl, dried (anhydrous Na2SO4) and concentrated to give yellowish crystals of ethyl 2-(2-furyl)-4-thiazolecarboxylate (3.12 g).

reactant | 2-furan-thiocarboxamide | 1.63 g | O1C(=CC=C1)C(N)=S | C5H5NOS
reactant | ethyl bromopyruvate | 1.97 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 65 ml | C(C)O | C2H6O
product | ethyl 2-(2-furyl)-4-thiazolecarboxylate | 3.12 g | O1C(=CC=C1)C=1SC=C(N1)C(=O)OCC | C10H9NO3S
